US03971819
B. 3-amino-4-butylamino-5-sulphamyl-benzoic acid
A suspension of 4-butylamino-3-nitro-5-sulphamyl-benzoic acid (8.6 g) in water (175 ml) was adjusted to pH 9.5 by addition of 2N sodium hydroxide. The resulting solution was hydrogenated after addition of Pd-on-carbon catalyst (0.5 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the 3-amino-4-butylamino-5-sulphamyl-benzoic acid was precipitated from the filtrate by addition of 4N hydrochloric acid until pH 3. After recrystallization from aqueous methanol the melting point was 211-211.5°C.

reactant | 4-butylamino-3-nitro-5-sulphamyl-benzoic acid | 8.6 g | C(CCC)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C11H15N3O6S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | 175 ml | O | H2O
product | 3-amino-4-butylamino-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1NCCCC)S(N)(=O)=O | C11H17N3O4S
